US04794183
dl-cis-3-Hexadecyloxy-2-hydroxymethyltetrahydropyran
1.409 g of dl-cis-2-benzyloxymethyl-3-hexadecyloxytetrahydropyran (prepared as described in Preparation 10) was dissolved in 100 ml of a 1:1 by volume mixture of methanol and ethanol. 0.70 g of a 10% w/w palladium-on-activated carbon catalyst was then added to the resulting solution. Catalytic reduction using the same procedure as described in Preparation 8 yielded 1.116 g of a crude substance, which was then subjected to column chromatography through 30 g of silica gel. The fraction eluted with mixtures of diethyl ether and hexane ranging from 1:20 to 1:5 by volume gave 1.031 g of the title compound, melting at 42°-43° C. (cold hexane).

reactant | cis-2-benzyloxymethyl-3-hexadecyloxytetrahydropyran | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@@H]1OCCCCCCCCCCCCCCCC | C29H50O3
solvent | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium | [Pd] | Pd
product | cis-3-Hexadecyloxy-2-hydroxymethyltetrahydropyran | 1.031 g | C(CCCCCCCCCCCCCCC)O[C@@H]1[C@@H](OCCC1)CO | C22H44O3
